US06528525B1
(f) Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-fluorophenoxy)propionate
In a similar manner to that described in Reference example 3(h), a reaction was carried out using ethyl 2-(4-fluorophenoxy)-3-[4-(2-methanesulfonyloxyethoxy)phenyl]propionate (3.16 g), which is the product of Reference example 37(e), and sodium azide (1.45 g) and the reaction mixture was treated to afford the desired compound (2.67 g) as a colorless oil.

reactant | ethyl 2-(4-fluorophenoxy)-3-[4-(2-methanesulfonyloxyethoxy)phenyl]propionate | 3.16 g | FC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCOS(=O)(=O)C)C=C1 | C20H23FO7S
reactant | sodium azide | 1.45 g | [N-]=[N+]=[N-].[Na+]
product | Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-fluorophenoxy)propionate | 2.67 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)F | C19H20FN3O4
